US08492582B2
Potassium carbonate (0.54 g), potassium iodide (0.11 g), and bis(2-chloroethyl)ether (0.22 mL) were sequentially added to an N,N-dimethylacetamide (3.2 mL) solution of methyl 5-amino-2-(benzyloxy)benzoate (0.40 g), followed by stirring at 100° C. for 3 hours. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 85-60% hexane/ethyl acetate] to obtain 0.27 g of methyl 2-(benzyloxy)-5-(morpholin-4-yl)benzoate as a light yellow oily substance.

reactant | Potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.11 g | [I-].[K+]
reactant | bis(2-chloroethyl)ether | 0.22 mL | ClCCOCCCl | C4H8Cl2O
reactant | methyl 5-amino-2-(benzyloxy)benzoate | 0.40 g | NC=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1 | C15H15NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 3.2 mL | CN(C(C)=O)C | C4H9NO
product | methyl 2-(benzyloxy)-5-(morpholin-4-yl)benzoate | 0.27 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)N1CCOCC1 | C19H21NO4
